US07855202B2
4-[6-(3,5-Difluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridin-2-yl]benzoic acid
To a solution of methyl 4-[6-(3,5-difluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridin-2-yl]benzoate (0.05 g, 0.11 mmol) in ethanol (1.1 mL), 2N sodium hydroxide aqueous solution (0.11 mL) was added. The mixture was heated at 60° C. for 5.5 h and then neutralised with 2N hydrogen chloride aqueous solution. The solvent was evaporated and the crude mixture was suspended in water, the solid formed was filtered and dried to give the title compound (0.04 g, 76% of yield).

reactant | methyl 4-[6-(3,5-difluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridin-2-yl]benzoate | 0.11 mmol, 0.05 g | FC=1C=NC=C(C1C=1C=C2C(=NC1C=1C=NC=CC1)NC(=N2)C2=CC=C(C(=O)OC)C=C2)F | C24H15F2N5O2
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | ethanol | 1.1 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 2N, 0.11 mL | [OH-].[Na+]
product | 4-[6-(3,5-Difluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridin-2-yl]benzoic acid | 0.04 g, 76% | FC=1C=NC=C(C1C=1C=C2C(=NC1C=1C=NC=CC1)NC(=N2)C2=CC=C(C(=O)O)C=C2)F | C23H13F2N5O2
